Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
shellfish derived / Penicillins
 
Attending: ___.
 
Chief Complaint:
aneurysm 
 
Major Surgical or Invasive Procedure:
___ Cerebral angiogram with pipeline embolization 

 
History of Present Illness:
This is a ___ woman who a little over
a year ago had a small right deep basal ganglionic hemorrhage. 
She is a nonsmoker and has no family history of aneurysms.  She
does have hypertension.  Followup imaging disclosed gradual
resolution of the hematoma of the small hematoma area, but the
fact is she did have a left paraclinoid aneurysm. She presents 
today for elective endovascular treatment of the aneurysm 
 
Past Medical History:
 - HTN  
 - CABG/PCI: RCA stent placement at ___  on aspirin 
and Plavix   
 - small right deep basal ganglionic hemorrhage  
 - left paraclinoid aneurysm  
 - depression  
 - GERD  
 
Social History:
___
Family History:
No family history of aneurysm 

Mother passed at age ___, had CAD and angina  
 Father passed at age ___ from ___, had h/o HTN  
 sister passed at age ___, had a CABG  
 4 brothers passed in their ___, 1 had a CABG and stents  
 1 brother alive, with CAD  
 
Physical Exam:
Upon discharge: neurologically intact
a+ o x 3
strength full, no pronator drift
groin site bilateral ecchymosis, no hematoma, no bleeding
right neck eccymosis
pedal pulses palpable
 
Pertinent Results:
Radiology Report CAROTID/CEREBRAL COIL/STENT Study Date of 
___ 12:15 ___ 
IMPRESSION:  
  
Successful pipeline embolization of left paraophthalmic artery 
aneurysm. 
No thromboembolic complications. 

Radiology Report CTA NECK W&W/OC & RECONS Study Date of 
___ 2:20 ___
prelim report NOT FINALIZED.....The CTA was reviewed by Dr 
___ the patient was deemed appropriate for 
discharge to home on ___. 

 1. Focal short segment dissection of the left internal carotid 
artery with minimal aneurysmal dilatation at this level (7:224). 

2. Faint linear opacity in the right internal carotid artery is 
likely 
artifactual (7:206). 
3. Near complete opacification of the left maxillary sinus with 
mixed density material extending into the left anterior 
ethmoidal air cells and the left paranasal sinuses with 
associated inspissated secretions in the nasopharynx. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old female who presents for admission 
after elective angiogram with pipeline embolization of L 
paraclinoid aneurysm. The procedure was well tolerated. 
Post-procedure a nasal trumpet was placed upon extubation and 
once removed the patient had some bleeding. Given she was on 
Brilinta and ASA, the bleeding continued. ENT was called on a 
curbside and recommended Afrin but felt no further manipulation 
should be done as to not risk increased bleeding. The Afrin did 
help and the patient remained neurologically intact. POD 1, the 
patient was stable and her nasal dressing remained dry and 
intact. The decision was made to keep her one more day to ensure 
there was no further bleeding. Transfer orders were written but 
no floor bed was available. In the afternoon, RN called nsurg to 
report the patient c/o neck soreness and when the RN evaluated 
there was a bruise and underlying hematoma on her R neck. A CTA 
neck was ordered which the preliminary report by radiology  was 
consistent with 1. Focal short segment dissection of the left 
internal carotid artery with minimal aneurysmal dilatation at 
this level (7:224). 2. Faint linear opacity in the right 
internal carotid artery is likely 
artifactual (7:206). 3. Near complete opacification of the left 
maxillary sinus with mixed density material extending into the 
left anterior ethmoidal air cells and the left paranasal sinuses 
with associated inspissated secretions in the nasopharynx.
 
The CTA was reviewed by Dr ___ the patient was 
deemed appropriate for discharge to home on ___. The patient 
was neurologically intact on exam.  There was bilateral 
ecchymosis noted at both groin sites.  there was no hematoma or 
bleeding noted.  The patient had small ecchymosis area on her 
right neck as well that was stable.  the patient denies bleeding 
from the nose.  the dressing was removed.  The patient was 
voiding on her own and tolerating a regular diet.  The patient 
was ambulating independently.  The patient was discharged home 
on Brillinta 90 BID and aspirin 81 daily. 
 
Medications on Admission:
Amlodipine 5 mg PO DAILY, Aspirin 325 mg PO DAILY, Atorvastatin 
40 mg PO QPM, Clopidogrel 75 mg PO DAILY, Escitalopram Oxalate 
10 mg PO DAILY, Furosemide 20 mg PO DAILY, Losartan Potassium 50 
mg PO BID, Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain, 
Pantoprazole 40 mg PO Q24H, Hydrochlorothiazide 25 mg PO 
DAILY:PRN lower extremity edema, Invokana (canagliflozin) 100 mg 
ORAL DAILY, Labetalol 300 mg PO BID 

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN fever or pain 
2. Amlodipine 5 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Escitalopram Oxalate 20 mg PO DAILY 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. Invokana (canagliflozin) 100 mg oral DAILY 
7. Labetalol 300 mg PO BID 
8. Losartan Potassium 50 mg PO BID 
9. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN CP 
10. Pantoprazole 40 mg PO Q24H 
11. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth q4H PRN Disp #*45 
Tablet Refills:*1
12. TiCAGRELOR 90 mg PO BID for stent 
RX *ticagrelor [BRILINTA] 90 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*1
13. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*60 
Tablet Refills:*1
14. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left Paraclinoid Aneurysm 
Epistaxis

 
Discharge Condition:
neurologically intact
a+ o x 3
strength full, no pronator drift
groin site bilateral ecchymosis, no hematoma, no bleeding
right neck eccymosis
pedal pulses palpable

 
Discharge Instructions:
Activity
•You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.
•Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.
•You make take a shower.
Medications
•Resume your normal medications and begin new medications as 
directed.
•It is very important to take the ASPIRIN and BRILLINTA your 
doctor ___ prescribe for you to keep your blood thin and 
slippery. This will prevent clots from developing and sticking 
to the stent.
DO NOT TAKE any other blood thinning medications without 
speaking with the Neurosurgery office. 
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
Care of the Puncture Site
•You will have a small bandage over the site.
•Remove the bandage in 24 hours by soaking it with water and 
gently peeling it off.
•Keep the site clean with soap and water and dry it carefully.
•You may use a band-aid if you wish.

What You ___ Experience:
•Mild tenderness and bruising at the puncture site (groin).
•Soreness in your arms from the intravenous lines.
•The medication may make you bleed or bruise easily.
•Fatigue is very normal.
When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the puncture 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Constipation
•Blood in your stool or urine
•Nausea and/or vomiting

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___